US07253192B2
A] 5-(3-Trifluoromethyl-phenyl)-pent-4-yn-1-ol
In analogy to the procedure described in example 1F], 1-iodo-3-trifluoromethyl-benzene, was reacted with 4-pentyn-1-ol in the presence of Pd(PPh3)4 and cuprous iodide to yield the title compound as brown oil.

reactant | 1-iodo-3-trifluoromethyl-benzene | IC1=CC(=CC=C1)C(F)(F)F | C7H4F3I
reactant | 4-pentyn-1-ol | C(CCC#C)O | C5H8O
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-Trifluoromethyl-phenyl)-pent-4-yn-1-ol | FC(C=1C=C(C=CC1)C#CCCCO)(F)F | C12H11F3O
